US07692011B2
CDI (2.2 g, 0.013 mol) was added to a stirred solution of 4,6-dichloro-3-hydroxy-2-nitrobenzoic acid (3.0 g, 0.012 mol) in anhydrous THF (30 mL) and DMF (2 mL). After 40 min, 4-fluoroaniline (4 mL, 0.042 mol) was added. The solution was heated under reflux overnight, cooled, and concentrated to a dark brown viscous oil. The oil was purified via SiO2-gel chromatography (dichloromethane/methanol, 19:1-9:1) to yield 4,6-dichloro-N-(4-fluorophenyl)-3-hydroxy-2-nitrobenzamide as a light brown oil (2.7 g, 65%).

reactant | CDI | 0.013 mol, 2.2 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4,6-dichloro-3-hydroxy-2-nitrobenzoic acid | 0.012 mol, 3.0 g | ClC1=C(C(=C(C(=O)O)C(=C1)Cl)[N+](=O)[O-])O | C7H3Cl2NO5
reactant | 4-fluoroaniline | 0.042 mol, 4 mL | FC1=CC=C(N)C=C1 | C6H6FN
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4,6-dichloro-N-(4-fluorophenyl)-3-hydroxy-2-nitrobenzamide | 2.7 g, 65% | ClC1=C(C(=C(C(=O)NC2=CC=C(C=C2)F)C(=C1)Cl)[N+](=O)[O-])O | C13H7Cl2FN2O4
